US06437184B1
To a mixture of 0.51 g of 2-(2-hydroxyethoxy)ethoxyacetone O-tert-butyloxime, 0.58 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 0.58 g of triphenylphosphine, and 20 ml of tetrahydrofuran is slowly added dropwise 0.49 g of diisopropyl azodicarboxylate with stirring under ice cooling in a stream of nitrogen gas. After stirring at room temperature for 4 hours, the reaction mixture is concentrated to give a residue. This residue is subjected to silica gel chromatography, which affords 0.68 g (yield, 68%) of 2-(2-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)ethoxy)ethoxyacetone O-tert-butyloxime, nD23.0 1.5172.

reactant | 2-(2-hydroxyethoxy)ethoxyacetone O-tert-butyloxime | 0.51 g | C(C)(C)(C)ON=C(C)COCCOCCO | C11H23NO4
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.58 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | triphenylphosphine | 0.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.49 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)ethoxy)ethoxyacetone O-tert-butyloxime | 0.68 g, 68% | C(C)(C)(C)ON=C(C)COCCOCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C20H27Cl4NO5
